### PR TITLE
feat(ErdosProblems/510,GreenProblems/81): more recent results

### PR DESCRIPTION
**Pull request by seewoo5**
Also add as Green's problem 81.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/510.lean [hunk 1]
```diff
@@ -36,7 +40,27 @@ $$\sum_{n\in A}\cos(n\theta) < -cN^{1/2}?$$
...
+Bedert [Be25c] proved an upper bound of $-c N^{1/7}$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_510.variant.bedert :
+    ∃ (c : ℝ) (hc : 0 < c),
+      ∀ N > 0, ∀ (A : Finset ℕ), 0 ∉ A → #A = N →
+      (∃ (θ : ℝ), (∑ n ∈ A, (n * θ).cos) < - c * (N : ℝ)^(1 / 7)) := by
   sorry
 
 -- TODO(firsching): add the additional material
```
Comment (seewoo5) [inline FormalConjectures/ErdosProblems/510.lean:66]: @mo271 Not sure if these are something you had in your mind before..

File: FormalConjectures/ErdosProblems/510.lean [hunk 2]
```diff
@@ -36,7 +40,27 @@ $$\sum_{n\in A}\cos(n\theta) < -cN^{1/2}?$$
...
+  sorry
+
+/--
+Ruzsa [Ru04] proved an upper bound of $-\exp(O(\sqrt{\log N})$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_510.variant.ruzsa :
+    ∃ (c : ℝ) (hc : 0 < c),
+      ∀ N > 0, ∀ (A : Finset ℕ), 0 ∉ A → #A = N →
+      (∃ (θ : ℝ), (∑ n ∈ A, (n * θ).cos) < - exp (c * sqrt (log N))) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/510.lean]:
```suggestion
      ∃ θ, ∑ n ∈ A, cos (n * θ) < - exp (c * sqrt (log N)) := by
```

File: FormalConjectures/ErdosProblems/510.lean [hunk 3]
```diff
@@ -36,7 +40,27 @@ $$\sum_{n\in A}\cos(n\theta) < -cN^{1/2}?$$
...
+  sorry
+
+/--
+Bedert [Be25c] proved an upper bound of $-c N^{1/7}$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_510.variant.bedert :
+    ∃ (c : ℝ) (hc : 0 < c),
+      ∀ N > 0, ∀ (A : Finset ℕ), 0 ∉ A → #A = N →
+      (∃ (θ : ℝ), (∑ n ∈ A, (n * θ).cos) < - c * (N : ℝ)^(1 / 7)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/510.lean]:
```suggestion
      ∃ θ, ∑ n ∈ A, cos (n * θ) < - c * N ^ (1 / 7 : ℝ) := by
```

**Comment by YaelDillies** [comment]
Do you want to also add `GreensOpenProblems.81` importing just this file?

File: FormalConjectures/ErdosProblems/510.lean (hunk 2 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/510.lean]: Should I also update the original `erdos_510` above? I prefer your suggested style.

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/510.lean]: Please do 🙏

**Review by YaelDillies — APPROVED** [review]
LGTM, thanks!

File: FormalConjectures/ErdosProblems/510.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/510.lean:66]: That is exactly what I had in mind!

**Comment by seewoo5** [comment]
> Thanks, LGTM,
> 
> Let's add the Problem 81 from Green's list as Yaël suggested, either here or in a follow up

Added here!

File: FormalConjectures/GreensOpenProblems/81.lean [hunk 4]
```diff
@@ -0,0 +1,27 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.ErdosProblems.«510»
+
+/-!
+# Ben Green's Open Problem 81
+
+Let $A$ be a set of size $n$ integers. Is there some absolute constant $c > 0$ and $\theta$ such that $\sum_{a \in A} \cos(a \theta) \leq - c \sqrt{n}$?
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/81.lean]: Can you make it at most 100 chars?

File: FormalConjectures/GreensOpenProblems/81.lean [hunk 5]
```diff
@@ -0,0 +1,27 @@
...
+
+*Reference:*
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/81.lean]:
```suggestion
*References:*
```

**Review by mo271 — APPROVED** [review]
LGTM
